US04616023
663 milligrams (2.31 millimoles) of 3-bromo-5H-dibenzo[a,d]cyclohepten-5-ol, 825 milligrams (6.94 millimoles) of thionyl chloride and 10 milliliters of benzene were mixed together and refluxed for 1.5 hours and the solvent removed in vacuo to obtain a 3-bromo-5-chloro-5H-dibenzo[a,d]-cycloheptene product as residue. The residue was dissolved in 10 milliliters of dimethylformamide and 1.74 milliliters (1.29 grams, 10.0 millimoles) of ethyl diisopropyl amine and 500 milligrams (2.31 millimoles) of cinnamoylpiperazine added thereto and the resulting mixture stirred overnight to obtain a 1-(3-bromo-5H-dibenzo[a,d]cyclohepten-5-yl)-4-cinnamoylpiperazine compound in the reaction mixture. It was recovered as residue by vaporizing the solvent in vacuo, the residue then was dissolved in ethyl acetate, the ethyl acetate solution washed with three 50 milliliter portions of water and with one 100 milliliter portion of brine, and then dried over potassium carbonate. After removing the drying agent, the solvent was evaporated in vacuo from the dried solution to obtain 1.07 grams (95 percent yield) of the cinnamoylpiperazine compound.

reactant | 3-bromo-5H-dibenzo[a,d]cyclohepten-5-ol | 2.31 millimoles, 663 milligrams | BrC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)O)C1 | C15H11BrO
reactant | thionyl chloride | 6.94 millimoles, 825 milligrams | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 10 milliliters | C1=CC=CC=C1 | C6H6
product | 3-bromo-5-chloro-5H-dibenzo[a,d]-cycloheptene | BrC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)Cl)C1 | C15H10BrCl
